US08426427B2
To a suspension of 2,3-difluoro-6-hydroxybenzaldehyde (2.64 g) and potassium carbonate (3.47 g) in N,N-dimethylformamide (33 mL) were added 2-acetyloxyethyl bromide (2.03 mL) and sodium iodide (0.5 g), and the mixture was stirred at 60° C. overnight. The reaction mixture was poured into water, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=1/1) to give 6-(2-acetyloxyethoxy)-2,3-difluorobenzaldehyde (3.35 g). This material was dissolved in tetrahydrofuran (27 mL). To the solution were added water (2.7 mL) and sodium borohydride (0.52 g) under ice-cooling, and the mixture was stirred at the same temperature for 5 minutes, and then stirred at room temperature for 1 hour. The reaction mixture was diluted with water, and the resulting mixture was extracted with ethyl acetate. The extract was washed with brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure to give 6-(2-acetyloxyethoxy)-2,3-difluorobenzyl alcohol (3.2 g). To the solution of the obtained 6-(2-acetyloxyethoxy)-2,3-difluorobenzyl alcohol (1.81 g) and triethylamine (0.97 g) in ethyl acetate (25 mL) was added methanesulfonyl chloride (0.63 mL) under ice-cooling, and the mixture was stirred at the same temperature for 30 minutes. The insoluble material was removed by filtration, and the insoluble material was washed with ethyl acetate (15 mL). The filtrate and washing were combined. To the solution was added lithium bromide (1.92 g), and the mixture was stirred at 60° C. for 1 hour. The reaction mixture was poured into water, and the organic layer was separated. The organic layer was washed with water and brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure to give the title compound (2.12 g).

reactant | 2,3-difluoro-6-hydroxybenzaldehyde | 2.64 g | FC1=C(C=O)C(=CC=C1F)O | C7H4F2O2
reactant | potassium carbonate | 3.47 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-acetyloxyethyl bromide | 2.03 mL | C(C)(=O)OCCBr | C4H7BrO2
reactant | sodium iodide | 0.5 g | [I-].[Na+]
solvent | N,N-dimethylformamide | 33 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 6-(2-acetyloxyethoxy)-2,3-difluorobenzaldehyde | 3.35 g | C(C)(=O)OCCOC1=CC=C(C(=C1C=O)F)F | C11H10F2O4
